US04977144
To a mixture of 1.2 g ethyl N-(7-chloro-3H-imidazo-[4,5-b]-pyridin-5-yl)-carbamate, prepared as described by Schelling and Salemink, Receuil 93 (6), 160 (1974), 2.52 g of 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose, 4.06 g potassium nonafluorobutanesulfonate and 0.56 g hexamethyldisilazane in 70 ml of acetonitrile is added 1.67 g of trimethylsilyl chloride. The mixture is heated to reflux under nitrogen for 21 hours. It is cooled, diluted with methylene chloride (100 ml) and treated with saturated aqueous sodium bicarbonate (50 ml). The organic phase is separated, and the aqueous layer is extracted with methylene chloride. The combined organic layers are washed with saturated aqueous sodium bicarbonate, then with brine, and then dried (sodium sulfate). Evaporation of the solvent in vacuo gives an oil which is dissolved in 100 ml of methanol saturated with ammonia, and the solution is stirred at room temperature for 40 hours. The clear solution is concentrated in vacuo, the residue is redissolved in water and washed twice with ether. The aqueous layer is concentrated in vacuo to give a glass. It is dissolved in hot acetonitrile, the solution is filtered, and the solvent is evaporated in vacuo to afford ethyl N-[7-chloro-3-β-D-ribofuranosyl-3H-imidazo[4,5-b]pyridin-5-yl]-carbamate, m.p 107°-111°.

reactant | ethyl N-(7-chloro-3H-imidazo-[4,5-b]-pyridin-5-yl)-carbamate | 1.2 g | ClC1=C2C(=NC(=C1)NC(OCC)=O)NC=N2 | C9H9ClN4O2
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 2.52 g | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | potassium nonafluorobutanesulfonate | 4.06 g | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.[K+]
reactant | hexamethyldisilazane | 0.56 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | trimethylsilyl chloride | 1.67 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
solvent | ammonia | N | H3N
product | ethyl N-[7-chloro-3-β-D-ribofuranosyl-3H-imidazo[4,5-b]pyridin-5-yl]-carbamate | ClC1=C2C(=NC(=C1)NC(OCC)=O)N(C=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C14H17ClN4O6
